US07368566B2
6-(Methylamino)-2-pyridineethanol
A clean dry 2 L 3 necked flask was fitted with reflux condenser, addition funnel, stir bar, nitrogen inlet and outlet, temperature sensor, and heating mantle. The flask was purged using a stream of nitrogen. Lithium borohydride (4.36 g, 200 mmol) was added all at once. Tetrahydrofuran (THF, 150 mL) was charged into the addition funnel and was added to the solid with stirring over a 10-minute period. After dissolution, the mixture was heated to 66° C. Ethyl 6-[[(1,1-dimethylethoxy)carbonyl]methylamino]-2-pyridineacetate (110 g, 374 mmol) was dissolved in THF (400 ml) and charged into the addition funnel. The ethyl 6-[[(1,1-dimethylethoxy)carbonyl]methylamino]-2-pyridineacetate solution was added to the LiBH4 solution in as dropwise manner over a period of 25 minutes. The addition rate was controlled so as to maintain a gentle reflux. The mixture was heated to reflux for 5 h, the heat was turned off, and the reaction was allowed to stir overnight at 23° C. The reaction mixture was cooled to 10° C. and was treated with water (250 mL) in a dropwise manner. The mixture was stirred for 30 min and ethyl acetate (250 mL) was added. The mixture was stirred for 5 minutes and the layers were allowed to separate. The organic layer was washed with 2×250 mL saturated sodium chloride. The organic layers were stripped to thick oil in a 2 L round bottom flask. The residue was dissolved in ethyl acetate (200 mL) and was extracted with 1 N HCl (2×250 mL). The organic layer was discarded and the acid layer was placed in a 2 L 3 neck round bottom flask. The flask was heated to 50° C. for 1 h. The mixture was cooled to 10° C. and the solution was treated with 4 N NaOH (˜350 mL) to a pH of 10. The basic solution was extracted with ethyl acetate (3×150 mL). Care was taken to keep the pH of the aqueous phase above pH=9. The ethyl acetate extracts were combined, washed with water (150 mL) and concentrated to provide the title compound as a thin yellow oil, 33.5 g, yield=58%)

reactant | Lithium borohydride | 200 mmol, 4.36 g | [BH4-].[Li+]
reactant | Ethyl 6-[[(1,1-dimethylethoxy)carbonyl]methylamino]-2-pyridineacetate | 374 mmol, 110 g | CC(C)(OC(=O)CNC1=CC=CC(=N1)CC(=O)OCC)C | C15H22N2O4
reactant | LiBH4 | [Li+].[BH4-]
reactant | water | 250 mL | O | H2O
reactant | ethyl acetate | 250 mL | C(C)(=O)OCC | C4H8O2
solvent | THF | 400 ml | O1CCCC1 | C4H8O
solvent | Tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
product | 6-(Methylamino)-2-pyridineethanol | yield=58% | CNC1=CC=CC(=N1)CCO | C8H12N2O
